US06924276B2
Step (b): Preparation of 3-acetyl-1-(tert-butoxycarbonyl)-indole
To a stirred solution of 3-acetylindole (0.01 mol) in THF is added (BOC)2O (0.01 mol) and a tertiary amine base (0.01 mol), and the mixture is stirred. Reaction progress may be followed by TLC or HPLC. When a sufficient amount of desired product is formed, the mixture (or, optionally, the residue which is obtained after first rotary evaporating off the reaction solvent) is partitioned between ethyl acetate and an excess of about 0.1 M sodium hydroxide. The organic layer is washed with brine, dried over sodium sulfate, and rotary evaporated to give 3-acetyl-1-(tert-butoxycarbonyl)-indole, which may be purified, if needed or desired, by chromatography on silica gel or crystallization.

reactant | 3-acetylindole | 0.01 mol | C(C)(=O)C1=CNC2=CC=CC=C12 | C10H9NO
reactant | (BOC)2O | 0.01 mol | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
product | 3-acetyl-1-(tert-butoxycarbonyl)-indole | C(C)(=O)C1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C15H17NO3
